US05824690
Combine 2-[3-(4-fluoro-phenyl)-pyrrolidin-3-yl]-ethanol (32 mmol) and butanone (400 mL). Add a solution of (R,R)-di-p-anisoyltartaric acid (32 mmol) in butanone (80 mL). Heat to reflux. After 15 minutes, cool to ambient temperature and evaporate in vacuo to give a residue. Combine the residue and butanone (1000 mL) and methanol (430 mL) and heat. Add methanol (about 100 mL). Slowly cool to ambient temperature to give a solid. After 18 hours, filter the solid. Recrystallize the solid from butanone/methanol (80 mL/80 mL) to give (-)-2-[3-(4-fluoro-phenyl)-pyrrolidin-3-yl]-ethanol (R,R)-di-p-anisoyltartaric acid salt. [α]2D0 =-98.9 (c=0.70, methanol). Analysis on HPLC, on an analytical sample of the 3,4,5-trimethoxy-benzamide derivative, using a CHIRALPAK AD 25 cm×0.46 cm column eluting with pentane/ethanol/methanol/triethylamine (80/15/10/0.1) with a flow rate of 1.0 mL/minute indicates an enantiomeric excess of 99.6%, (99.6% ee), the 3,4,5-trimethoxy-benzamide prepared from (-)-2-[3-(4-fluoro-phenyl)-pyrrolidin-3-yl]-ethanol (R,R)-di-p-anisoyltartaric acid salt gave a retention time of 23.0 minutes, the 3,4,5-trimethoxy-benzamide prepared from (+)-2-[3-(4-fluoro-phenyl)-pyrrolidin-3-yl]-ethanol (R,R)-di-p-anisoyltartaric acid salt gave a retention time of 15.4 minutes.

reactant | 2-[3-(4-fluoro-phenyl)-pyrrolidin-3-yl]-ethanol | 32 mmol | FC1=CC=C(C=C1)C1(CNCC1)CCO | C12H16FNO
reactant | (R,R)-di-p-anisoyltartaric acid | 32 mmol | C(C1=CC=C(C=C1)OC)(=O)[C@@]([C@@](C(=O)O)(O)C(C1=CC=C(C=C1)OC)=O)(O)C(=O)O | C20H18O10
reactant | methanol | 430 mL | CO | CH4O
reactant | methanol | about 100 mL | CO | CH4O
solvent | butanone | 80 mL | CC(CC)=O | C4H8O
solvent | butanone | 1000 mL | CC(CC)=O | C4H8O
solvent | butanone | 400 mL | CC(CC)=O | C4H8O
product | (-)-2-[3-(4-fluoro-phenyl)-pyrrolidin-3-yl]-ethanol (R,R)-di-p-anisoyltartaric acid salt | C(C1=CC=C(C=C1)OC)(=O)[C@@]([C@@](C(=O)O)(O)C(C1=CC=C(C=C1)OC)=O)(O)C(=O)O.FC1=CC=C(C=C1)C1(CNCC1)CCO | InChI=1S/C20H18O10.C12H16FNO/c1-29-13-7-3-11(4-8-13)15(21)19(27,17(23)24)20(28,18(25)26)16(22)12-5-9-14(30-2)10-6-12;13-11-3-1-10(2-4-11)12(6-8-15)5-7-14-9-12/h3-10,27-28H,1-2H3,(H,23,24)(H,25,26);1-4,14-15H,5-9H2/t19-,20-;/m1./s1
